US05473070
This example illustrates another method for synthesizing CT1551 (in addition to the method described in Example 1). CT1561 (1-(8,9-dihydroxynonyl)-3,7-dimethylxanthine) (428 mg, 1.3 mmol) was stirred with HBr (777 μl, 1.05 g of a 30% solution in acetic acid, 3.9 mmol) for 90 min. The mixture was then added to a flask containing aqueous sodium bicarbonate solution (10 ml, 1.35 g) and dichloromethane (10 ml) and stirred vigorously for 10 min. The layers were separated and the aqueous portion was washed with dichloromethane (3×15 ml). The organic portions were combined, dried with sodium sulfate and evaporated to give 1-(8-acetoxy-9-bromononyl)-3,7-dimethylxanthine as a yellow oil (550 mg, 96% yield). Without further purification, the oil was taken up in methanol (5 ml) and treated with a solution of sodium methoxide (prepared from 33 mg, 1.4 mmol sodium and 1.4 ml methanol). After 30 min the reaction mixture was added to water (30 ml) and extracted with dichloromethane (3×40 ml). The organic portions were combined and dried to give an off-white solid which was recrystalized in dichloromethane/petroleum ether to give 1-(8,9-oxidononyl)-3,7-dimethylxanthine (CT1560) (380 mg, 91%).

reactant | 1-(8,9-dihydroxynonyl)-3,7-dimethylxanthine | OC(CCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C16H26N4O4
reactant | HBr | Br | BrH
reactant | sodium bicarbonate | 10 ml, 1.35 g | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(8-acetoxy-9-bromononyl)-3,7-dimethylxanthine | 550 mg, 96% yield | C(C)(=O)OC(CCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C18H27BrN4O4
